US08440652B2
A solution of benzyl ((1R,2R)-2-methylcyclopropyl)carbamate (1.68 g, 8.2 mmol) in DCM (55 mL) was charged with 10 wt % Pd/C, then degassed and charged with hydrogen (50 PSI). The reaction was complete after 30 min and so was filtered over celite, rinsing with DCM (15 mL). The liquor was cooled to 0° C., and treated with triethylamine (3.43 mL, 24.6 mmol) and 4-bromobenzene-1-sulfonyl chloride (2.20 g, 8.61 mmol). The cold bath was removed and the reaction was stirred for 1 h. At completion, the reaction was washed with 0.5 M aq. HCl (2×20 mL) and brine (20 mL), dried over MgSO4 and concentrated to provide 4-bromo-N-((1R,2R)-2-methylcyclopropyl)benzenesulfonamide (2.06 g, 87% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.74-7.80 (m, 1H), 7.66-7.72 (m, 1H), 4.90 (br. s., 1H), 1.94 (dt, J=3.5, 1.8 Hz, 1H), 1.41 (t, J=7.3 Hz, 1H), 0.89-1.01 (m, 3H), 0.70-0.81 (m, 1H), 0.35-0.45 (m, 1H).

reactant | benzyl ((1R,2R)-2-methylcyclopropyl)carbamate | 8.2 mmol, 1.68 g | C[C@H]1[C@@H](C1)NC(OCC1=CC=CC=C1)=O | C12H15NO2
reactant | triethylamine | 24.6 mmol, 3.43 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzene-1-sulfonyl chloride | 8.61 mmol, 2.20 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | DCM | 55 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
product | 4-bromo-N-((1R,2R)-2-methylcyclopropyl)benzenesulfonamide | 2.06 g, 87% yield | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](C1)C | C10H12BrNO2S
